US08791142B2
Step 1) 5-bromo-2-(2-ethylpiperidin-1-yl)benzaldehyde
To a solution of 5-bromo-2-fluorobenzaldehyde (20 g, 99 mmol) in DMSO (230 mL) and water (70 mL) were added 2-ethylpiperidine (14.4 mL, 108 mmol) and sodium carbonate (20.9 g, 197 mmol). The resulting mixture was heated at 110° C. for 30 hours. The reaction mixture was cooled at RT, diluted with water (1000 mL) and extracted with MTBE (2×500 mL). The organic layers were combined, dried (Na2SO4) and concentrated under reduced pressure. After purification by flash chromatography (silica, pet ether), the title compound was obtained as a yellow oil. 1H NMR (DMSO-d6, 400 MHz) δ 10.15 (1H, s), 7.72 (2H, d), 7.24 (1H, m), 3.11 (2H, m), 2.85 (1H, m), 1.84 (1H, m), 1.34-1.67 (7H, m), 0.64 (3H, t).

reactant | 5-bromo-2-fluorobenzaldehyde | 99 mmol, 20 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | 2-ethylpiperidine | 108 mmol, 14.4 mL | C(C)C1NCCCC1 | C7H15N
reactant | sodium carbonate | 197 mmol, 20.9 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMSO | 230 mL | CS(=O)C | C2H6OS
solvent | water | 70 mL | O | H2O
solvent | water | 1000 mL | O | H2O
product | 5-bromo-2-(2-ethylpiperidin-1-yl)benzaldehyde | BrC=1C=CC(=C(C=O)C1)N1C(CCCC1)CC | C14H18BrNO
